US08557805B2
Ethyl (2E)-2-{[4-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-2-(tetrahydro-2H-pyran-4-yloxy)phenyl]hydrazono}propanoate
4-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-2-(tetrahydro-2H-pyran-4-yloxy)aniline (25.7 g) was suspended in a mixed solvent of acetonitrile (50 mL)-ethanol (100 mL), and concentrated hydrochloric acid (21 mL) was added at 10° C. To a mixture was added dropwise sodium nitrite (5.8 g) dissolved in water (15 mL) at −5° C., and the mixture was stirred at −10° C. to −5° C. for 1 hr. The mixture was added to a mixture of ethyl 2-methyl-3-oxobutanoate (11.2 mL), potassium hydroxide (85%, 8.6 g), water (70 mL), and ethanol (100 mL) at −40 to −30° C. and the mixture was stirred at −28° C. for 30 min. To the reaction solution was added 1M hydrochloric acid (110 mL), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=30:70 to 100:0, volume ratio) to give the title compound (25.8 g, yield 77%) as a yellow amorphous solid.

reactant | 4-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 25.7 g | CS(=O)(=O)C=1C=CC(=NC1)OC1=CC(=C(N)C=C1)OC1CCOCC1 | C17H20N2O5S
reactant | hydrochloric acid | 21 mL | Cl | ClH
reactant | sodium nitrite | 5.8 g | N(=O)[O-].[Na+]
reactant | ethyl 2-methyl-3-oxobutanoate | 11.2 mL | CC(C(=O)OCC)C(C)=O | C7H12O3
reactant | potassium hydroxide | 8.6 g | [OH-].[K+]
reactant | hydrochloric acid | 1M, 110 mL | Cl | ClH
solvent | water | 15 mL | O | H2O
solvent | water | 70 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | Ethyl (2E)-2-{[4-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-2-(tetrahydro-2H-pyran-4-yloxy)phenyl]hydrazono}propanoate | 25.8 g, yield 77% | CS(=O)(=O)C=1C=CC(=NC1)OC1=CC(=C(C=C1)N\N=C(\C(=O)OCC)/C)OC1CCOCC1 | C22H27N3O7S
